US07608604B2
3-[(Methyl-1,3-dioxolan-2-yl)methoxy]-4-(trifluoromethyl)benzonitrile
To a mixture of 3-fluoro-4-(trifluoromethyl)benzonitrile (12.1 g, 63.9 mmol) and the compound of Preparation 8 (21.0 g, 160.0 mmol) in tetrahydrofuran (345 ml), at 0° C. and under nitrogen, was added dropwise potassium tert-butoxide (1M in tetrahydrofuran, 70.3 ml, 70.3 mmol). The reaction mixture was stirred at 0° C. for 1 h and then allowed to warm to room temperature. To the mixture was added ethyl acetate (200 ml) and saturated aqueous ammonium chloride solution (250 ml) and the two layers were separated. The organic phase was washed with saturated aqueous ammonium chloride solution, water and brine, dried (MgSO4) and concentrated in vacuo. To the residue was added cyclohexane (100 ml) and the mixture was allowed to stand for 1 h. The solid residue was collected by filtration and dried to give the title compound (16.3 g).

reactant | 3-fluoro-4-(trifluoromethyl)benzonitrile | 63.9 mmol, 12.1 g | FC=1C=C(C#N)C=CC1C(F)(F)F | C8H3F4N
reactant | potassium tert-butoxide | 70.3 mmol, 1M, 70.3 ml | CC(C)([O-])C.[K+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 345 ml | O1CCCC1 | C4H8O
product | 3-[(Methyl-1,3-dioxolan-2-yl)methoxy]-4-(trifluoromethyl)benzonitrile | 16.3 g | CC1(OCCO1)COC=1C=C(C#N)C=CC1C(F)(F)F | C13H12F3NO3
